US06670367B1
Methyl 3,3-di(4-Ethylphenyl)-2,3-epoxypropionate
A solution of 15 ml (168 mmol) of methyl chloroacetate and 20 g (84 mmol) of 4,4′-diethylbenzophenone in 20 ml of THF was added dropwise to a suspension of 9.1 g (168 mmol) of sodium ethanolate in 80 ml of THF at −10° C. The mixture was warmed to room temperature and stirred for 2 hours. The mixture was added to water and extracted with ether. The organic phase was washed with sodium bicarbonate solution and citric acid solution and dried over magnesium sulfate, and the solvent was distilled off. 15.4 g of a crude oil were isolated and were immediately employed further.

reactant | methyl chloroacetate | 168 mmol, 15 ml | ClCC(=O)OC | C3H5ClO2
reactant | 4,4′-diethylbenzophenone | 84 mmol, 20 g | C(C)C1=CC=C(C(=O)C2=CC=C(C=C2)CC)C=C1 | C17H18O
reactant | sodium ethanolate | 168 mmol, 9.1 g | C(C)[O-].[Na+]
reactant | water | O | H2O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 80 ml | C1CCOC1 | C4H8O
product | Methyl 3,3-di(4-Ethylphenyl)-2,3-epoxypropionate | 15.4 g | C(C)C1=CC=C(C=C1)C1(C(C(=O)OC)O1)C1=CC=C(C=C1)CC | C20H22O3
